US07435822B2
8-(2-Methyl-benzyl)-3-(phenyl-thiophen-3-yl-methylene)-8-aza-bicyclo[3.2.1]octane
To 100 mg (355 μmol) of 3-(phenyl-thiophen-3-yl-methylene)-8-aza-bicyclo[3.2.1]octane in 1 mL of trimethyl orthoformate was added 62 μL (533 μmol) of 2-methylbenzaldehyde, 173 mg (817 μmol) of sodium triacetoxyborohydride, 34 μL of glacial acetic acid at room temperature. The reaction mixture was allowed to stir overnight at room temperature. Next day, the crude was diluted with 1 mL of dichloromethane and 0.5 mL of methanol. The diluted suspension was filtered and the precipitates were washed with dichloromethane. The combined filtrates were concentrated. The concentrated sample was purified by reverse phase chromatography (20×100 mm J'sphere H-80 YMC column using a gradient of 0.1% TFA/water to 5% water/0.1% TFA/acetonitrile). The eluent was evaporated to yield the title compound as a white solid; MS m/z (MH+) 386; 1H NMR 300 MHz (MeOD-d4) δ 6.86-7.51 (m, 12H), 4.26 (s, 2H), 4.05-4.11 (m, 2H), 2.03-2.89 (m, 11H).

reactant | 3-(phenyl-thiophen-3-yl-methylene)-8-aza-bicyclo[3.2.1]octane | 355 μmol, 100 mg | C1(=CC=CC=C1)C(=C1CC2CCC(C1)N2)C2=CSC=C2 | C18H19NS
reactant | 2-methylbenzaldehyde | 533 μmol, 62 μL | CC1=C(C=O)C=CC=C1 | C8H8O
reactant | sodium triacetoxyborohydride | 817 μmol, 173 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 34 μL | C(C)(=O)O | C2H4O2
solvent | trimethyl orthoformate | 1 mL | C(OC)(OC)OC | C4H10O3
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | methanol | 0.5 mL | CO | CH4O
product | 8-(2-Methyl-benzyl)-3-(phenyl-thiophen-3-yl-methylene)-8-aza-bicyclo[3.2.1]octane | CC1=C(CN2C3CC(CC2CC3)=C(C3=CSC=C3)C3=CC=CC=C3)C=CC=C1 | C26H27NS
